US08110588B2
4-[5-Amino-4-(2-fluoro-4-trifluoromethyl-phenyl)-[1,2,3]triazol-1-yl]-benzenesulfonamide (13)
To a stirred and ice-cooled solution of 2-fluoro-4-(trifluoromethyl)phenyl acetonitrile (1.066 g, 5.2471 mmol) and 4-azido-benzenesulfonamide (0.800 g, 4.0362 mmol) in methanol (50 ml), sodium methoxide (0.3271 g, 6.0543 mmol) is added portion wise and the mixture is allowed to attain room temperature spontaneously and stirred for additional 24 hours at this temperature. The reaction mixture is concentrated, water (10 ml) is added and extracted with ethyl acetate (3×80 ml). The combined organic layers are washed with brine (15 ml), dried over MgSO4, filtered and concentrated to afford an off-white solid (1.61 g, ˜99% yield, 97.7% pure at HPLC). M.p. 183.8-185.2° C. LC-ESI-HRMS of [M+H]+ shows 402.0638 Da. Calc. 402.064783 Da, dev. −2.4 ppm.

reactant | 2-fluoro-4-(trifluoromethyl)phenyl acetonitrile | 5.2471 mmol, 1.066 g | FC1=C(C=CC(=C1)C(F)(F)F)CC#N | C9H5F4N
reactant | 4-azido-benzenesulfonamide | 4.0362 mmol, 0.800 g | N(=[N+]=[N-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N4O2S
reactant | sodium methoxide | 6.0543 mmol, 0.3271 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-[5-Amino-4-(2-fluoro-4-trifluoromethyl-phenyl)-[1,2,3]triazol-1-yl]-benzenesulfonamide | ˜99% yield | NC1=C(N=NN1C1=CC=C(C=C1)S(=O)(=O)N)C1=C(C=C(C=C1)C(F)(F)F)F | C15H11F4N5O2S
